US04446141
2.31 g of 1-[2-hydroxy-2-(3,4-dibenzyloxyphenyl)-1-ethyl]-4-(2-keto-1-benzimidazolinyl)-piperidine hydrochloride is dissolved in 250 ml of methanol. 0.3 g of palladium carbon (10%) is added thereto, and the mixture is vigorously shaked in a hydrogen stream under atmospheric pressure. After discontinuation of the absorption of hydrogen, the catalyst is filtered off, and the mother liquor is concentrated. To the residual syrup is added ethyl acetate, and the mixture is well stirred. The mixture is filtered to obtain powdered product, and the product is washed with ethyl acetate and dried to obtain 1.52 g of 1-[2-hydroxy-2- (3,4-dihydroxyphenyl)-1-ethyl]-4-(2-keto-1-benzimidazolinyl)-piperidine hydrochloride as amorphous powder. When subjected to thin layer chromatography using a lower layer of a mixture of chloroform/methanol/acetic acid/water (10/10/1/10), this product provides single spot at Rf =0.15.

reactant | 1-[2-hydroxy-2-(3,4-dibenzyloxyphenyl)-1-ethyl]-4-(2-keto-1-benzimidazolinyl)-piperidine hydrochloride | 2.31 g | Cl.OC(CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C2=CC(=C(C=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium carbon | 0.3 g | [C].[Pd]
product | 1-[2-hydroxy-2- (3,4-dihydroxyphenyl)-1-ethyl]-4-(2-keto-1-benzimidazolinyl)-piperidine hydrochloride | 1.52 g | Cl.OC(CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C2=CC(=C(C=C2)O)O | InChI=1S/C20H23N3O4.ClH/c24-17-6-5-13(11-18(17)25)19(26)12-22-9-7-14(8-10-22)23-16-4-2-1-3-15(16)21-20(23)27;/h1-6,11,14,19,24-26H,7-10,12H2,(H,21,27);1H
